US06548694B2
The 2-ethoxy-5-fluoro-phenol (14.3 g) described in example 1.2 was dissolved in trifluoroacetic acid (90 ml). This solution was slowly added to a solution of hexamethylene tetramine (25.7 g) in trifluoroacetic acid (90 ml) at 80° C. The mixture was stirred for 1 h at 80° C. and concentrated. Water (250 ml) was added and stirred for 10 min. The mixture was neutralized with Na2CO3 and extracted with ether. The crude product was purified by column chromatography (n-hexane/ethyl acetate) to yield 9.43 g of 5-ethoxy-2-fluoro-4-hydroxy-benzaldehyde as a yellow solid. MS: 184 ([M]+).

reactant | 2-ethoxy-5-fluoro-phenol | 14.3 g | C(C)OC1=C(C=C(C=C1)F)O | C8H9FO2
reactant | hexamethylene tetramine | 25.7 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 90 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 90 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-ethoxy-2-fluoro-4-hydroxy-benzaldehyde | 9.43 g | C(C)OC=1C(=CC(=C(C=O)C1)F)O | C9H9FO3
